US07196079B2
Step E. 3-Azido-9-chloro-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine
A solution of 9-chloro-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine (0.287 g, 0.813 mmol) in tetrahydrofuran (10 mL) was cooled to −78° C., and potassium t-butoxide (0.905 mL, 1 M in tetrahydrofuran) was added. After 15 min, 2,4,6-triisopropylbenzenesulfonylazide (0.976 mL, 1M in tetrahydrofuran) was added. After 15 min, acetic acid (0.186 mL, 3.2 mmol) was added and the reaction warned to room temperature and stirred for 3.5 h. Workup with ethyl acetate and saturated sodium bicarbonate solution, followed by saturated brine and drying gave a solid. Tetrahydrofuran (30 mL) was added, the solid filtered, and the filtrate concentrated to obtain the title compound. MS 394 (M+1) 1H NMR (500 MHz, CDCl3) δ 7.77–7.20 (m, 8H), 6.40 (s, 1H), 5.20 (m, 1H), 4.30 (m, 1H).

reactant | 9-chloro-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine | 0.813 mmol, 0.287 g | ClC1=CC=CC=2C(=NCC(N(C21)CC(F)(F)F)=O)C2=CC=CC=C2 | C17H12ClF3N2O
reactant | potassium t-butoxide | 1 M, 0.905 mL | CC(C)([O-])C.[K+]
reactant | 2,4,6-triisopropylbenzenesulfonylazide | 1M, 0.976 mL | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)N=[N+]=[N-] | C15H23N3O2S
reactant | acetic acid | 3.2 mmol, 0.186 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | Tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Azido-9-chloro-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine | N(=[N+]=[N-])C1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2Cl)CC(F)(F)F)=O | C17H11ClF3N5O
